US07598391B2
4-[3-(5-Chloro-thiazol-2-yl)-1-(trans-4-methyl-cyclohexyl)-ureido]-piperidine-1-carboxylic acid dimethylamide
To a solution of 3-(5-chloro-thiazol-2-yl)-1-(trans-4-methyl-cyclohexyl)-1-piperidin-4-yl-urea (0.8 mmol), prepared as described in general procedure (G), steps 1-3, and 1.2 equivalents of DIPEA in 10 mL dioxane was added dimethylcarbamoyl chloride (1.2 equivalents) in 1 ml dioxane. The reaction was stirred overnight at room temperature, concentrated in vacuo and purified by flash chromatography to give the title compound.

reactant | 3-(5-chloro-thiazol-2-yl)-1-(trans-4-methyl-cyclohexyl)-1-piperidin-4-yl-urea | 0.8 mmol | ClC1=CN=C(S1)NC(N(C1CCNCC1)[C@@H]1CC[C@H](CC1)C)=O | C16H25ClN4OS
reactant | DIPEA | 1.2 equivalents | CCN(C(C)C)C(C)C | C8H19N
reactant | dimethylcarbamoyl chloride | 1.2 equivalents | CN(C(=O)Cl)C | C3H6ClNO
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | 4-[3-(5-Chloro-thiazol-2-yl)-1-(trans-4-methyl-cyclohexyl)-ureido]-piperidine-1-carboxylic acid dimethylamide | CN(C(=O)N1CCC(CC1)N(C(=O)NC=1SC(=CN1)Cl)[C@@H]1CC[C@H](CC1)C)C | C19H30ClN5O2S
